US07795267B2
1,1-Bis(4-methylphenyl)-N-(2,4-difluorophenyl)-tetrahydro-3-oxo-3H-oxazolo[3,4-a]pyrazine-7(1H)-carboxamide
To a solution of 1,1-bis(4-methylphenyl)-hexahydro-3H-oxazolo[3,4-a]pyrazin-3-one (0.20 g, 0.62 mmol) in tetrahydrofuran (6 mL) was added 2,4-difluorophenyl isocyanate (0.090 mL, 0.76 mmol) at 0° C., and the mixture was stirred at 0° C. for 1 hour. The reaction solution was diluted with water and then extracted with ethyl acetate. The organic layer was washed with water and saturated brine, and dried over magnesium sulfate. The solid was filtered off, and the filtrate was concentrated. The residue was purified with silica gel column chromatography (hexane:ethyl acetate=98:2 to hexane:ethyl acetate=1:1), and then recrystallized from diisopropyl ether to obtain the title compound (0.20 g, yield 68%).

reactant | 1,1-bis(4-methylphenyl)-hexahydro-3H-oxazolo[3,4-a]pyrazin-3-one | 0.62 mmol, 0.20 g | CC1=CC=C(C=C1)C1(OC(N2C1CNCC2)=O)C2=CC=C(C=C2)C | C20H22N2O2
reactant | 2,4-difluorophenyl isocyanate | 0.76 mmol, 0.090 mL | FC1=C(C=CC(=C1)F)N=C=O | C7H3F2NO
solvent | tetrahydrofuran | 6 mL | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 1,1-Bis(4-methylphenyl)-N-(2,4-difluorophenyl)-tetrahydro-3-oxo-3H-oxazolo[3,4-a]pyrazine-7(1H)-carboxamide | 0.20 g, yield 68% | CC1=CC=C(C=C1)C1(OC(N2C1CN(CC2)C(=O)NC2=C(C=C(C=C2)F)F)=O)C2=CC=C(C=C2)C | C27H25F2N3O3
